US07696223B2
a) 4-Bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (2.10 g, 7.01 mmole), N-bromosuccinimide (1.31 g, 7.36 mmole) and benzoyl peroxide (84.9 mg, 0.35 mmole) in carbon tetrachloride (40 ml) was refluxed for 2 h before it was cooled to room temperature and partitioned between dichloromethane and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and dichloromethane to give the title compound as a white solid (1.89 g). MS: (+) m/z 379.18, 381.18 (M+1, 79Br/81Br).

reactant | 7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 7.01 mmole, 2.10 g | C(C)OC(=O)C1=C(C2=C(C=N1)SC(=N2)C2=CC=CC=C2)O | C15H12N2O3S
reactant | N-bromosuccinimide | 7.36 mmole, 1.31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.35 mmole, 84.9 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 1.89 g | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)SC(=N2)C2=CC=CC=C2)O | C15H11BrN2O3S
